US04301280
p-Nitrobenzyl 7-phenoxyacetamido-3-hydroxy-3-cephem-4-carboxylate
To a stirred solution of p-nitrobenzyl α-[3-phenoxymethyl-7-oxo-4-thia-2,6-diazabicyclo [3,2,0]hept-2-en-6-yl]-α-(1-hydroxyethylidene)acetate (9.38 g) in tetrahydrofuran (120 ml) under a nitrogen atmosphere at 20° C. was added triethylamine (3.21 ml) followed by diphenylphosphoryl chloride (4.77 ml). The reaction mixture was then stirred for 2 hours and cooled to 0° C. Morpholine (4.01 ml) was added and the reaction mixture stirred for 2 hours at 0°-5° C. The reaction mixture was next cooled to -30° to -35° C. and pyridine (1.62 ml) added followed by the dropwise addition of bromine (1.00 ml) over a period of 10 minutes. The reaction mixture was stirred at -30° to -35° C. for 20 minutes and 5% hydrochloric acid (144 ml) added, followed by further stirring at room temperature for 3 hours. The reaction mixture was then stood at 0° C. overnight. The reaction mixture was extracted with dichloromethane and the organic extracts washed with water then saturated sodium chloride solution, dried with magnesium sulphate and evaporated to dryness. The product thus obtained was dissolved in dichloromethane and acetic acid added, the dichloromethane removed under reduced pressure and then ether was added with stirring to complete crystallization. The product was isolated by filtration, washed with ether then dried in vacuo at 40° C. for 5 hours. The yield of p-nitrobenzyl 7-phenoxyacetamido-3-hydroxy-3-cephem-4-carboxylate acetic acid solvate was 9.16 g (84%).

reactant | p-nitrobenzyl α-[3-phenoxymethyl-7-oxo-4-thia-2,6-diazabicyclo [3,2,0]hept-2-en-6-yl]-α-(1-hydroxyethylidene)acetate | 9.38 g | O(C1=CC=CC=C1)CC1=NC2C(N(C2S1)C(C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=C(C)O)=O | C22H19N3O7S
reactant | diphenylphosphoryl chloride | 4.77 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)Cl | C12H10ClOP
reactant | Morpholine | 4.01 ml | N1CCOCC1 | C4H9NO
reactant | bromine | 1.00 ml | BrBr | Br2
reactant | hydrochloric acid | 144 ml | Cl | ClH
solvent | tetrahydrofuran | 120 ml | O1CCCC1 | C4H8O
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | pyridine | 1.62 ml | N1=CC=CC=C1 | C5H5N
solvent | triethylamine | 3.21 ml | C(C)N(CC)CC | C6H15N
product | p-Nitrobenzyl 7-phenoxyacetamido-3-hydroxy-3-cephem-4-carboxylate | O(C1=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2)O)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C22H19N3O8S
